US06355653B1
0.7 g (0.015 mol) sodiumhydride (55%) were added to a solution of 1.50 g (0.005 mol) 3-benzenesulfonylmethyl-5-furan-2-yl-1H-[1,2,4]triazole in 50 ml tetrahydrofuran. The mixture was refluxed and 0.85 g (0.005 mol) 3-(4-chlorophenyl)-2-propenenitrile in 30 ml tetrahydrofuran were added during, aperiod of 5.5 hours. Boiling was continued for 30 minutes and then 20 ml methanol were added at room temperature. Evaporation of the solvent and chromatography on silicagel with dichloromethane/methanol 99/1 gave 0.57 g (35%) 7-(4-chloro-phenyl)-2-furan-2-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine as pale crystals. MS m/e (%): 311 (M+H+, 100).

reactant | sodiumhydride | 0.015 mol, 0.7 g | [H-].[Na+]
reactant | 3-benzenesulfonylmethyl-5-furan-2-yl-1H-[1,2,4]triazole | 0.005 mol, 1.50 g | C1(=CC=CC=C1)S(=O)(=O)CC1=NNC(=N1)C=1OC=CC1 | C13H11N3O3S
reactant | 3-(4-chlorophenyl)-2-propenenitrile | 0.005 mol, 0.85 g | ClC1=CC=C(C=C1)C=CC#N | C9H6ClN
reactant | methanol | 20 ml | CO | CH4O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 7-(4-chloro-phenyl)-2-furan-2-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine | 0.57 g, 35% | ClC1=CC=C(C=C1)C1=CC=2N(C(=C1)N)N=C(N2)C=2OC=CC2 | C16H11ClN4O
